US06218538B1
3-Phenylpropyl 2-(4-chlorophenyl)-4-(3,4-dichlorophenyl)-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate (5.46 g, 15.70 mmol), 3,4-dichlorobenzaldehyde (2.75 g, 15.70 mmol), 4-chlorobenzamidine hydrochloride (3.0 g, 15.70 mmol) and potassium carbonate (2.17 g, 15.70 mmol) was stirred in N,N-dimethylformamide (15 ml) for 5 days at room temperature and then heated to 60° C. for 3 days. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. The oil was further purified by flash chromatography and RP-HPLC to give the title compound (300 mg) as an oil. Electrospray MS m/z 640/642 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 15.70 mmol, 5.46 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
reactant | 3,4-dichlorobenzaldehyde | 15.70 mmol, 2.75 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 4-chlorobenzamidine hydrochloride | 15.70 mmol, 3.0 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | potassium carbonate | 15.70 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-Phenylpropyl 2-(4-chlorophenyl)-4-(3,4-dichlorophenyl)-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate | 300 mg | ClC1=CC=C(C=C1)C=1NC(=C(C(N1)C1=CC(=C(C=C1)Cl)Cl)C(=O)OCCCC1=CC=CC=C1)COCCN1CCCCC1 | C34H36Cl3N3O3
